US06737425B1
99-1) 4-Cyano-5-methyl-4-phenylhexyl Iodide
5.00 g 23.0 mmol of 4-Cyano-5-methyl-4-phenylhexanol disclosed in Example 2 or 3 of JP 11-70613-A was added to and dissolved in acetonitrile 150 ml and triethylamine 3.53 ml. Mesyl chloride, 1.96 ml 25.3 mmol, was added thereto. After 25 minutes, sodium iodide 20.7 g was added thereto. The reaction mixture was partitioned by adding brine and ethyl acetate. The organic layer was washed with aqueous sodium thiosulfate and then with brine, dried over magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane system), whereby the title compound, 5. 89 g 18.0 mmol, 78.2%, was obtained as a pale yellow oil.

reactant | 4-Cyano-5-methyl-4-phenylhexanol | 23.0 mmol, 5.00 g | C(#N)C(CCCO)(C(C)C)C1=CC=CC=C1 | C14H19NO
reactant | Mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | sodium iodide | 20.7 g | [I-].[Na+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | triethylamine | 3.53 ml | C(C)N(CC)CC | C6H15N
product | 4-Cyano-5-methyl-4-phenylhexyl Iodide | C(#N)C(CCCI)(C(C)C)C1=CC=CC=C1 | C14H18IN
